US07579488B2
Step D. 1-{4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one
4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenol (4.05 g, 10.1 mmol) and 1-bromopinacolone (2.17 g, 12.1 mmol) and K2CO3 (2.79 g, 20.2 mmol) in acetone (50 mL) are reacted analogous to Example 18-E to give the title compound (3.20 g, 63%).

reactant | 4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenol | 10.1 mmol, 4.05 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(C=C2)O)C)C1 | C27H28O3
reactant | 1-bromopinacolone | 12.1 mmol, 2.17 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 20.2 mmol, 2.79 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-{4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 3.20 g, 63% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C)C1 | C33H38O4
